US05308857
A solution of potassium cyanate (9.6 g) in water (50 ml) was added to a mixture of 4-(5-aminomethylfuran-2-yl)-2-thioureidothiazole (10.0 g) in N,N-dimethylformamide (80 ml) and 1N-hydrochloric acid (78.6 ml), and the mixture was stirred for 16 hours at ambient temperature. To the reaction mixture was added a water (100 ml) and isolated precipitate was collected by filtration to give 2-thioureido-4-(5-ureidomethylfuran-2-yl)thiazole (10.74 g).

reactant | potassium cyanate | 9.6 g | [O-]C#N.[K+]
reactant | 4-(5-aminomethylfuran-2-yl)-2-thioureidothiazole | 10.0 g | NCC1=CC=C(O1)C=1N=C(SC1)NC(=S)N | C9H10N4OS2
reactant | hydrochloric acid | 78.6 ml | Cl | ClH
solvent | water | 50 ml | O | H2O
solvent | N,N-dimethylformamide | 80 ml | CN(C=O)C | C3H7NO
solvent | water | 100 ml | O | H2O
product | 2-thioureido-4-(5-ureidomethylfuran-2-yl)thiazole | 10.74 g | N(C(=S)N)C=1SC=C(N1)C=1OC(=CC1)CNC(=O)N | C10H11N5O2S2
